US08044068B2
Synthesis of 1-((S)-3-(4-methylquinolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride (Compound 3-014)
A mixture of 2-chloro-4-methylquinoline (0.30 g), 1-((S)-3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride (0.60 g), N,N-diisopropylethylamine (0.74 mL), and n-butanol (1.5 mL) was heated at 140° C. in a sealed tube for 23 h. The reaction mixture was diluted with chloroform and saturated aqueous sodium hydrogencarbonate, and then the aqueous layer was extracted with chloroform. The organic layer was dried with anhydrous sodium sulfate, the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=1:1) to obtain 1-((S)-3-(4-methylquinolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.24 g). (2) 1-((S)-3-(4-Methylquinolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.24 g) was dissolved in ethyl acetate (2.5 mL), followed by addition of a solution (0.28 mL) of 4 M HCl in ethyl acetate, the mixture was stirred at room temperature for 2 h, concentrated under reduced pressure, and then solidified with diethyl ether to obtain the title compound (0.24 g).

reactant | 1-((S)-3-(4-Methylquinolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 0.24 g | CC1=CC(=NC2=CC=CC=C12)N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C23H22F3N3O2
reactant | HCl | 4 M, 0.28 mL | Cl | ClH
solvent | ethyl acetate | 2.5 mL | C(C)(=O)OCC | C4H8O2
product | 1-((S)-3-(4-methylquinolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride | 0.24 g | Cl.CC1=CC(=NC2=CC=CC=C12)N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | InChI=1S/C23H22F3N3O2.ClH/c1-15-12-21(28-20-5-3-2-4-19(15)20)27-17-10-11-29(14-17)22(30)13-16-6-8-18(9-7-16)31-23(24,25)26;/h2-9,12,17H,10-11,13-14H2,1H3,(H,27,28);1H/t17-;/m0./s1
